2190-08-31 09:46:00 Physician Resident Progress Note
Chief Complaint: Altered Mental Sataus
   24 Hour Events:
 INVASIVE VENTILATION - START [**2190-8-30**] 04:05 PM
 ARTERIAL LINE - START [**2190-8-30**] 05:30 PM
 BLOOD CULTURED - At [**2190-8-31**] 12:15 AM
   art line
 BLOOD CULTURED - At [**2190-8-31**] 12:30 AM
   venipuncture
   Arterial line placed on [**8-30**] (right radial)
   3 RBC & 4 FFPs
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-8-30**] 09:00 PM
   Metronidazole - [**2190-8-31**] 08:00 AM
   Azithromycin - [**2190-8-31**] 08:45 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-8-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-8-31**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 60 (60 - 62) bpm
   BP: 113/60(79) {92/45(65) - 131/68(87)} mmHg
   RR: 14 (14 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
           Total In:
                                                                  3,971 mL
                                                                  1,565 mL
   PO:
           TF:
   IVF:
                                                                    835 mL
                                                                    641 mL
   Blood products:
                                                                  1,016 mL
                                                                    924 mL
   Total out:
                                                                    275 mL
                                                                    176 mL
   Urine:
                                                                    275 mL
                                                                    176 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,696 mL
                                                                  1,389 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.44/37/188/25/1
   Ve: 7.3 L/min
   PaO2 / FiO2: 470
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale, jaundice
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Normal
   Labs / Radiology
   386 K/uL
   8.4 g/dL
   83 mg/dL
   3.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   59 mg/dL
   105 mEq/L
   143 mEq/L
   24.7 %
   18.0 K/uL
        [image002.jpg]
                             [**2190-8-30**]  01:41 PM
                             [**2190-8-30**]  06:05 PM
                             [**2190-8-30**]  11:13 PM
                             [**2190-8-31**]  02:26 AM
                             [**2190-8-31**]  04:50 AM
   WBC
   18.0
   Hct
   17
   21.3
   21.4
   24.7
   Plt
   386
   Cr
   3.5
   TCO2
   26
   Glucose
   156
   83
   Other labs: PT / PTT / INR:19.1/36.9/1.8, Lactic Acid:1.6 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   This is a 89 yoM w/ a h/o severe dementia, CAD, CHF, PVD who presents
   with severe anemia and hypotension.
   .
   Plan:
   # ANEMIA: Patient with sudden drop in HCT without any known source. CT
   not compatible with bleeding in lungs, abdomen or pelvis. Patient has
   not had any bowel movement, which would suggest massive bleeding into
   the GI tract. Non-optimal EGD showed a small ulcer in stomach, which
   may be compatible with HGT. No clear source of bleeding found out.
   However, HCT bumped approximately after transfusions.
   -          Check HCT q6 hours
   -          Two large bore IVs
   -          FFPs goal INR <1.8
   -          Vitamin K per NGT 10mg
   # RENAL FAILURE: Patient with increase in creatinine, which may be
   pre-renal renal failure due to hypotension and anemia; however it may
   be ATN in setting of ischemia.
   -          UA with reflex looking for casts
   -          Urine lytes
   -          Manage BP and HCT
   # MECHANICAL VENTILATION: Patient intubated for airway protection. Now
   improved ventilatory settings. There may be a component of aspiration
   and in the top of known pulmonary pneumoconiosis with stable pulmonary
   masses since [**2183**].
   -          Wean sedation
   -          Switch to PS
   -          ABGs afterwards
   -          SBT if doing ok
   -          Continue Vanc/Levo/Flagyl ([**1-15**]) for aspiration PNA
   # FEN:  NPO for now, electrolyte repletion scales
   .
   # Access: PIV x 2; including 16 & 18.
   .
   # PPx:  pneumoboots, PPI IV
   .
   # Code:  FULL CODE
   .
   # Dispo:  ICU
   .
   # Comm:  wife [**Name (NI) 2374**] [**Name (NI) 5556**] Phone [**Telephone/Fax (1) 5557**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-8-30**] 04:00 PM
   18 Gauge - [**2190-8-30**] 04:00 PM
   Arterial Line - [**2190-8-30**] 05:30 PM
   20 Gauge - [**2190-8-30**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-09-01 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 WOUND CULTURE - At [**2190-8-31**] 08:00 AM
 ENDOSCOPY - At [**2190-8-31**] 10:10 AM: EGD showed coffee ground emesis
   mixed with food in stomach, non-bleeding ulcer in the cardia, otherwise
   normal EGD to duodenum. GI recs to continue PPI [**Hospital1 **], repeat EGD or
   colonoscopy later this admission
   -Vascular surgery consult: wet to dry dressings [**Hospital1 **]
   -Last hct 31 (s/p 4U PRBC, 4U FFP total)
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2190-8-31**] 08:45 AM
   Ceftriaxone - [**2190-8-31**] 08:00 PM
   Metronidazole - [**2190-9-1**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-8-31**] 08:15 PM
   Fentanyl - [**2190-9-1**] 12:00 AM
   Midazolam (Versed) - [**2190-9-1**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-9-1**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 60 (60 - 62) bpm
   BP: 108/50(70) {88/39(55) - 126/63(82)} mmHg
   RR: 16 (11 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
             Total In:
                                                                  3,557 mL
                                                                  1,588 mL
   PO:
             TF:
   IVF:
                                                                  2,198 mL
                                                                  1,588 mL
   Blood products:
                                                                  1,299 mL
   Total out:
                                                                    431 mL
                                                                    102 mL
   Urine:
                                                                    431 mL
                                                                    102 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,126 mL
                                                                  1,486 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 646 (320 - 733) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 15
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.33/49/106/23/0
   Ve: 6.9 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   390 K/uL
   10.0 g/dL
   80 mg/dL
   3.6 mg/dL
   23 mEq/L
   4.1 mEq/L
   60 mg/dL
   106 mEq/L
   144 mEq/L
   30.2 %
   19.7 K/uL
        [image002.jpg]
                             [**2190-8-30**]  11:13 PM
                             [**2190-8-31**]  02:26 AM
                             [**2190-8-31**]  04:50 AM
                             [**2190-8-31**]  09:51 AM
                             [**2190-8-31**]  04:33 PM
                             [**2190-8-31**]  04:43 PM
                             [**2190-8-31**]  09:56 PM
                             [**2190-8-31**]  10:14 PM
                             [**2190-9-1**]  04:29 AM
                             [**2190-9-1**]  04:55 AM
   WBC
   18.0
   19.7
   Hct
   21.4
   24.7
   24.1
   29.9
   30.6
   30.2
   Plt
   386
   390
   Cr
   3.5
   3.6
   TCO2
   26
   28
   26
   27
   Glucose
   83
   80
   Other labs: PT / PTT / INR:19.0/36.0/1.8, Lactic Acid:1.6 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   89 yoM w/ a h/o severe dementia, CAD, CHF, PVD who presents with severe
   anemia and hypotension secondary to GI bleed.
   .
   Plan:
   # ANEMIA: Thought to be due to GI bleed. On [**Name (NI) 5579**] pt found to have ulcer
   but not actively bleeding. Yesterday hematocrit bumped appropriately
   with several units of PRBCs and continues to be stable. Will continue
   to monitor hct q8 hours today and plan for repeat EGD later in
   admission if hct drops.
   -          Two large bore IVs
   -          FFPs goal INR <1.8
   -          Vitamin K per NGT 10mg
   -          Transfuse for hct<25
   # RENAL FAILURE: Patient with increase in creatinine on admission, FeNa
   0.4% suggests pre-renal etiology.  Likely ATN  given
   hypovolemia/ischemia. Started on maintenance fluids and bolused for low
   UOP. UA with reflex looking for casts
   -          IVF to maintain UOP 30cc/hr, bolus prn
   -          Manage BP and HCT
   # MECHANICAL VENTILATION: Patient initially intubated for airway
   protection. Known pulmonary pneumoconiosis with stable nodules/masses
   followed since [**2183**] on imaging. There is also question of aspiration
   PNA on admission, which is being covered with vanco/levo/flagyl.
   Currently on MMV, attempted PS wean yesterday but becames apneic. Will
   attempt to decrease sedation and continue to wean with plan to extubate
   later today is tolerates PS. Last ABG 7.33/49/106 on FIO2 40%.
   Wean sedation
   -          Switch to PS
   -          Follow ABGs
   -          SBT if doing ok
   -          Continue Vanc/Levo/Flagyl ([**2-13**]) for aspiration PNA
   # FEN:  NPO for now, electrolyte repletion scales
   .
   # Access: PIV x 2; including 16 & 18.
   .
   # PPx:  pneumoboots, PPI IV
   .
   # Code:  FULL CODE
   .
   # Dispo:  ICU
   .
   # Comm:  wife [**Name (NI) 2374**] [**Name (NI) 5556**] Phone [**Telephone/Fax (1) 5557**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-8-30**] 04:00 PM
   18 Gauge - [**2190-8-30**] 04:00 PM
   Arterial Line - [**2190-8-30**] 05:30 PM
   20 Gauge - [**2190-8-30**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-09-01 11:31:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EGD with no active bleeding.
   HCT stable
 WOUND CULTURE - At [**2190-8-31**] 08:00 AM
 ENDOSCOPY - At [**2190-8-31**] 10:10 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-8-31**] 08:00 PM
   Metronidazole - [**2190-9-1**] 07:44 AM
   Azithromycin - [**2190-9-1**] 08:44 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2190-9-1**] 12:00 AM
   Midazolam (Versed) - [**2190-9-1**] 12:15 AM
   Pantoprazole (Protonix) - [**2190-9-1**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-9-1**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 61 (60 - 62) bpm
   BP: 128/58(80) {88/39(55) - 134/62(85)} mmHg
   RR: 10 (10 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
             Total In:
                                                                  3,557 mL
                                                                  2,231 mL
   PO:
             TF:
   IVF:
                                                                  2,198 mL
                                                                  2,231 mL
   Blood products:
                                                                  1,299 mL
   Total out:
                                                                    431 mL
                                                                    137 mL
   Urine:
                                                                    431 mL
                                                                    137 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,126 mL
                                                                  2,094 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 500 (320 - 733) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 18
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.30/50/120/23/-1
   Ve: 6.9 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   390 K/uL
   80 mg/dL
   3.6 mg/dL
   23 mEq/L
   4.1 mEq/L
   60 mg/dL
   106 mEq/L
   144 mEq/L
   30.2 %
   19.7 K/uL
        [image002.jpg]
                             [**2190-8-31**]  02:26 AM
                             [**2190-8-31**]  04:50 AM
                             [**2190-8-31**]  09:51 AM
                             [**2190-8-31**]  04:33 PM
                             [**2190-8-31**]  04:43 PM
                             [**2190-8-31**]  09:56 PM
                             [**2190-8-31**]  10:14 PM
                             [**2190-9-1**]  04:29 AM
                             [**2190-9-1**]  04:55 AM
                             [**2190-9-1**]  08:00 AM
   WBC
   18.0
   19.7
   Hct
   24.7
   24.1
   29.9
   30.6
   30.2
   Plt
   386
   390
   Cr
   3.5
   3.6
   TCO2
   26
   28
   26
   27
   26
   Glucose
   83
   80
   Other labs: PT / PTT / INR:19.0/36.0/1.8, Lactic Acid:1.6 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   89 yo male with presentation with anemia and described coffee ground
   material from stomach in the setting of anti-coagulation and
   anti-platelet agents but without active bleeding seen at EGD or based
   upon follow up lab evaluations.  His respiratory failure in the setting
   of GIB and altered mental status has now been reversed.  His original
   insult remains poorly defined but would be best characterized by
   altered mental status, respiratory distress/hypoxemia suggested and
   evidence of UGIB found following NGT placement after intubation
   1)GI Bleed
may be chronic loss
   -PPI
   -HCT q8 hours
   -Maintain IV access
   2)Respiratory Failure-
   -Wean O2 as possible
   -NPO reasonable and would not return to feeds without speech and
   swallow evaluation
   -Repeat CXR post extubation
   -Vanco/CTX/Flagyl for possible aspiraiton PNA
   3)Altered Mental Status-
   -Will need to re-confirm baseline function and follow exam off sedation
   today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-8-30**] 04:00 PM
   18 Gauge - [**2190-8-30**] 04:00 PM
   Arterial Line - [**2190-8-30**] 05:30 PM
   20 Gauge - [**2190-8-30**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2190-09-02 07:28:00 Physician Resident Progress Note
Chief Complaint: 89 year old male with h/o afib on coumadin, severe
   dementia, CAD, CHF, PVD who presents with severe anemia and
   hypotension. Patient now s/p extubation.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-9-1**] 09:00 AM
   Patient was extubated yesterday. on shovel mask with FiO2 40%. Failed
   speech and swallow yesterday. got ng tube which he pulled out
   overnight.  speech and swallow has seen patient before, apparently high
   risk for aspiration.  Has swollen left arm on exam. LUE us shows
   nonocclusive thrombus wihtin one of the paired left bracial vein.
   Given possible gi bleed cannot anti-coagulate at this point.  Also
   given IV lopressor 5 mg x1 for PVCs as on metaprolol at home. Coughing
   up big plugs.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2190-9-1**] 08:44 AM
   Ceftriaxone - [**2190-9-1**] 09:00 PM
   Metronidazole - [**2190-9-2**] 12:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-9-1**] 09:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2190-9-2**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.8
C (96.4
   HR: 63 (59 - 64) bpm
   BP: 133/62(65) {105/49(65) - 141/70(92)} mmHg
   RR: 9 (7 - 17) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
             Total In:
                                                                  3,926 mL
                                                                    222 mL
   PO:
             TF:
   IVF:
                                                                  3,926 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                    247 mL
                                                                    145 mL
   Urine:
                                                                    247 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,679 mL
                                                                     77 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 18
   SpO2: 100%
   ABG: 7.29/48/111/23/-3
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: No acute distress, shovel mask in place
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: mild wheezing diffusely, also diffusely rhonchi
   b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: wrapped wounds feet b/l, legs are warm, RUE swelling
   Neurologic: responds to his name with eye contact, non-verbal, appears
   to grimace, no purposeful movement appreciated
   Labs / Radiology
   337 K/uL
   10.7 g/dL
   81 mg/dL
   3.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   61 mg/dL
   107 mEq/L
   141 mEq/L
   32.4 %
   19.0 K/uL
        [image002.jpg]
                             [**2190-8-31**]  04:33 PM
                             [**2190-8-31**]  04:43 PM
                             [**2190-8-31**]  09:56 PM
                             [**2190-8-31**]  10:14 PM
                             [**2190-9-1**]  04:29 AM
                             [**2190-9-1**]  04:55 AM
                             [**2190-9-1**]  08:00 AM
                             [**2190-9-1**]  01:41 PM
                             [**2190-9-1**]  02:49 PM
                             [**2190-9-2**]  05:00 AM
   WBC
   19.7
   19.0
   Hct
   29.9
   30.6
   30.2
   31.2
   32.4
   Plt
   390
   337
   Cr
   3.6
   3.5
   TCO2
   28
   26
   27
   26
   24
   Glucose
   80
   81
   Other labs: PT / PTT / INR:18.5/37.3/1.7, ALT / AST:109/78, Alk Phos /
   T Bili:92/0.5, Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL, LDH:362 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:5.6 mg/dL
   Chest x-ray from this morning
 significant b/l increased markings c/w
   fluid
   Assessment and Plan
   89 yoM w/ a h/o severe dementia, CAD, CHF, PVD who presents with severe
   anemia and hypotension secondary to GI bleed.
   Plan:
   # ANEMIA/GIB: Thought to be due to GI bleed. On [**Name (NI) 5579**] pt found to have
   ulcer but not actively bleeding. Crit responded appropriately to RBC
   transfusion. Now stable for 36 hours. plan for repeat EGD later in
   admission if hct drops. Got PO and subQ vitamin K to lower INR
   - daily crits
   -  Two large bore IVs
   -   FFPs goal INR <1.8, currently INR 1.7
   -    Transfuse for hct<25
    # RENAL FAILURE: Patient with increase in creatinine on admission,
   FeNa 0.4% suggests pre-renal etiology.  Likely ATN  given
   hypovolemia/ischemia. Started on maintenance fluids and bolused for low
   UOP. UA with casts suggestive of ATN.
   - UA with trace Leukocytes, trace protein
   - Urine sediment with 2 RBCs, 7 WBCs (elevated), 5 hyaline casts, 3
   broad casts
   - renal ultrasound ordered, will follow-u
   - trend creatinine
   - try iv lasix today to improve forward flow
    # Respiratory: Patient was initially intubated for airway protection
   now s/p extubation yesterday. Known pulmonary pneumoconiosis with
   stable nodules/masses followed since [**2183**] on imaging. There is also
   question of aspiration PNA on admission, which is being covered with
   ceftriaxone, azithromycin, flagyl. now on room air saturating well.
   - failed speech and swallow eval now s/p NG tube insertion and patient
   pulled out, will require repeat - consider how going to get nutrition
   long term if aspiration risk
   -   / Continue anitbiotics as above ([**3-16**]) for aspiration PNA
   - aspiration precautions
   #CHF
   - patient with heart failure, sounds and appears on x-ray as fluid up
   - re-start metoprolol today at 12.5 mg PO BID (home dose is 50 total
   daily)
   - start 40 IV lasix today (on 40 po at home)
   - goal I/O = negative one to two liters
   # Abnormal LFTs
   - lfts are abnormal, will get ultrasound of liver when get renal
   ultrasound
   -cont to trend lfts
   # L ARM EDEMA: Concern for DVT.
   -LUE ultrasound - PRELIM read - Nonocclusive thrombus within one of the
   paired left brachial veins.
   - likely currently not a candidate for coumadin as history of 2 bleeds
   on coumadin
   - once cleared by GI would consider high dose aspirin (325 mg), but
   currently will continue to hold
   # FEN:  failed speech and swallow, had NG tube that he pulled out, will
   place another one, nutrition consult for tubefeeding reccomedations,
   replete lytes PRN, no maintence fluids as volume up, IV lasix as above
   .
   # Access: PIV x 2; including 16 & 18.
   .
   # PPx:  pneumoboots, PPI IV, added colace and senna
   .
   # Code:  FULL CODE
   .
   # Dispo:  transfer to floor today
   .
   # Comm:  wife [**Name (NI) 2374**] [**Name (NI) 5556**] Phone [**Telephone/Fax (1) 5557**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-8-30**] 04:00 PM
   18 Gauge - [**2190-8-30**] 04:00 PM
   Arterial Line - [**2190-8-30**] 05:30 PM
   20 Gauge - [**2190-8-30**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-09-02 11:05:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   Respiratory Failure
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-9-1**] 09:00 AM
   NGT self D/C'd
   High risk of aspiration documented
   Ultrasound of upper extremity with non-occlusive thrombus noted.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2190-9-1**] 08:44 AM
   Ceftriaxone - [**2190-9-1**] 09:00 PM
   Metronidazole - [**2190-9-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-9-1**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2190-9-2**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 62 (59 - 64) bpm
   BP: 111/52(74) {105/49(65) - 141/70(92)} mmHg
   RR: 10 (6 - 17) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
             Total In:
                                                                  3,926 mL
                                                                    359 mL
   PO:
             TF:
   IVF:
                                                                  3,926 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                    247 mL
                                                                    245 mL
   Urine:
                                                                    247 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,679 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 99%
   ABG: 7.29/48/111/23/-3
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Not able to follow commands but briskly responsive with
   some verbal questions which is substantially changed from previous
   exam.
   Labs / Radiology
   10.7 g/dL
   337 K/uL
   81 mg/dL
   3.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   61 mg/dL
   107 mEq/L
   141 mEq/L
   32.4 %
   19.0 K/uL
        [image002.jpg]
                             [**2190-8-31**]  04:33 PM
                             [**2190-8-31**]  04:43 PM
                             [**2190-8-31**]  09:56 PM
                             [**2190-8-31**]  10:14 PM
                             [**2190-9-1**]  04:29 AM
                             [**2190-9-1**]  04:55 AM
                             [**2190-9-1**]  08:00 AM
                             [**2190-9-1**]  01:41 PM
                             [**2190-9-1**]  02:49 PM
                             [**2190-9-2**]  05:00 AM
   WBC
   19.7
   19.0
   Hct
   29.9
   30.6
   30.2
   31.2
   32.4
   Plt
   390
   337
   Cr
   3.6
   3.5
   TCO2
   28
   26
   27
   26
   24
   Glucose
   80
   81
   Other labs: PT / PTT / INR:18.5/37.3/1.7, ALT / AST:109/78, Alk Phos /
   T Bili:92/0.5, Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL, LDH:362 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:5.6 mg/dL
   Imaging: CXR-Patient with impressive bilateral and peri-hilar
   infiltrates noted
   Assessment and Plan
   89 yo male admitted with altered mental status and intubated in the
   setting of agitation, desaturaiton with difficult to obtain O2
   saturaiton and subsequent GIB seen without evidence of active
   bleeding.  He has been successfully extubated and now returned to room
   air breathing and he has been able to maintain adequate oxygenation and
   ventilation with npo status maintained.
   1)Respiratory Failure-
   CTX/Azithro/Flagyl
   -Significant volume overload suggested on CXR this morning with
   hydrostatic edeme resulting
   -Diuresis today
   2)Acute Renal Failure-
   -Persistent impaired renal function without resolution
   -Continue with negative fluid balance given the concern with pulmonary
   findings
   -Will need to maintain MAP
   -Will check renal ultrasound
   3)GI Bleed-
   -PPI
   -GI to follow up endoscopy
   4)Alteration of Awareness-
   -Patient near baseline level of function and much improved over report
   of initial presenation
   -Continue to Rx for primary pulmonary infection
   4)
   ICU Care
   Nutrition: Will need feeding tube for safe enteral feeds and will
   maintian npo until that can be established.
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-8-30**] 04:00 PM
   18 Gauge - [**2190-8-30**] 04:00 PM
   Arterial Line - [**2190-8-30**] 05:30 PM
   20 Gauge - [**2190-8-30**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:Fulll Code
   Disposition :Transfer to floor
   Total time spent: 35